US08664246B2
Methyl 2-chloro-6-(2,4-dichlorophenyl)pyridine-3-carboxylate
6 g (29.12 mmol) of methyl 2,6-dichloropyridine-3-carboxylate, 5.56 g (29.12 mmol) of 2,4-dichlorophenylboronic acid, 12.07 g (87.4 mmol) of potassium carbonate and then 1.68 g (1.46 mmol) of tetrakis(triphenylphosphine)palladium(0) were initially charged in 120 ml of degassed THF, and the mixture was heated under reflux conditions and under an argon atmosphere for 16 h. 300 ml of water and 500 ml of ethyl acetate were added. After separating the phases and removing the solvent, the residue was chromatographed on silica gel (cyclohexane/ethyl acetate 6:1). 2.5 g (27% of theory) of the product were isolated in solid form.

reactant | methyl 2,6-dichloropyridine-3-carboxylate | 29.12 mmol, 6 g | ClC1=NC(=CC=C1C(=O)OC)Cl | C7H5Cl2NO2
reactant | 2,4-dichlorophenylboronic acid | 29.12 mmol, 5.56 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 87.4 mmol, 12.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.46 mmol, 1.68 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2-chloro-6-(2,4-dichlorophenyl)pyridine-3-carboxylate | ClC1=NC(=CC=C1C(=O)OC)C1=C(C=C(C=C1)Cl)Cl | C13H8Cl3NO2
